** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/ADC8711.sch
.subckt GROTDC OUT VDD START STOP VSS RESET CTRL[2] CTRL[1] CTRL[0]
*.PININFO START:I STOP:I RESET:I VDD:B VSS:B OUT:O CTRL[2:0]:I
x5 DECLK net1[5] net1[4] net1[3] net1[2] net1[1] net1[0] VDD K0 VSS net2[5] net2[4] net2[3] net2[2] net2[1] net2[0] K1 net3[5]
+ net3[4] net3[3] net3[2] net3[1] net3[0] K2 Counters_6bits
x6 DRV_RESET D0[5] D0[4] D0[3] D0[2] D0[1] D0[0] VDD DECLK VSS D1[5] D1[4] D1[3] D1[2] D1[1] D1[0] D2[5] D2[4] D2[3] D2[2] D2[1]
+ D2[0] net1[5] net1[4] net1[3] net1[2] net1[1] net1[0] net2[5] net2[4] net2[3] net2[2] net2[1] net2[0] net3[5] net3[4] net3[3] net3[2]
+ net3[1] net3[0] Counters_regs_6bits
x7 S1[5] S1[4] S1[3] S1[2] S1[1] S1[0] D0[5] D0[4] D0[3] D0[2] D0[1] D0[0] VDD COUT1 D1[5] D1[4] D1[3] D1[2] D1[1] D1[0] VSS VSS
+ Counter_FA_6bits
x8 S2[6] S2[5] S2[4] S2[3] S2[2] S2[1] S2[0] COUT1 S1[5] S1[4] S1[3] S1[2] S1[1] S1[0] VDD COUT2 VSS D2[5] D2[4] D2[3] D2[2] D2[1]
+ D2[0] VSS VSS Counter_FA_7bits
x9 RESET ADDER[7] ADDER[6] ADDER[5] ADDER[4] ADDER[3] ADDER[2] ADDER[1] ADDER[0] VDD DECLK2 VSS COUT2 S2[6] S2[5] S2[4] S2[3]
+ S2[2] S2[1] S2[0] Counters_FA_regs_7bits
x1 VDD DRV_START EN net4 DRV_STOP VSS SR_Latch
x2 VDD EN IN0 IN1 VSS IN2 GRO
x3 K0 IN0 VDD IN1 VSS K1 K2 IN2 Modi_Buffers
x4 ADDER[0] ADDER[1] VDD MUX_ADDER DRV_CTRL[2] DRV_CTRL[1] DRV_CTRL[0] ADDER[2] VSS ADDER[3] ADDER[4] ADDER[5] ADDER[6] ADDER[7]
+ MUX_8_1
x10 START VDD DRV_START VSS STOP DRV_STOP RESET DRV_RESET OUT MUX_ADDER DRV_CTRL[2] DRV_CTRL[1] DRV_CTRL[0] CTRL[2] CTRL[1]
+ CTRL[0] Buffers_IO
x11 VDD DRV_STOP DECLK DECLK2 VSS Delay_cell
.ends

* expanding   symbol:  Counters_6bits.sym # of pins=9
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counters_6bits.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counters_6bits.sch
.subckt Counters_6bits RESET C0_B[5] C0_B[4] C0_B[3] C0_B[2] C0_B[1] C0_B[0] VDD K0 VSS C1_B[5] C1_B[4] C1_B[3] C1_B[2] C1_B[1]
+ C1_B[0] K1 C2_B[5] C2_B[4] C2_B[3] C2_B[2] C2_B[1] C2_B[0] K2
*.PININFO VDD:B VSS:B K0:I K1:I K2:I RESET:I C0_B[5:0]:O C1_B[5:0]:O C2_B[5:0]:O
x5 C1_B[0] K1 VDD C1_B[1] C1_B[2] VSS RESET C1_B[3] C1_B[4] C1_B[5] 6bits_counter
x6 C0_B[0] K0 VDD C0_B[1] C0_B[2] VSS RESET C0_B[3] C0_B[4] C0_B[5] 6bits_counter
x7 C2_B[0] K2 VDD C2_B[1] C2_B[2] VSS RESET C2_B[3] C2_B[4] C2_B[5] 6bits_counter
.ends


* expanding   symbol:  Counters_regs_6bits.sym # of pins=10
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counters_regs_6bits.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counters_regs_6bits.sch
.subckt Counters_regs_6bits RESET D0_B[5] D0_B[4] D0_B[3] D0_B[2] D0_B[1] D0_B[0] VDD CLK VSS D1_B[5] D1_B[4] D1_B[3] D1_B[2]
+ D1_B[1] D1_B[0] D2_B[5] D2_B[4] D2_B[3] D2_B[2] D2_B[1] D2_B[0] C0_B[5] C0_B[4] C0_B[3] C0_B[2] C0_B[1] C0_B[0] C1_B[5] C1_B[4] C1_B[3]
+ C1_B[2] C1_B[1] C1_B[0] C2_B[5] C2_B[4] C2_B[3] C2_B[2] C2_B[1] C2_B[0]
*.PININFO VDD:B VSS:B RESET:I C0_B[5:0]:I C1_B[5:0]:I C2_B[5:0]:I D0_B[5:0]:O D1_B[5:0]:O D2_B[5:0]:O CLK:I
x8 VDD CLK RESET VSS D0_B[0] net1 C0_B[0] FF_D
x1 VDD CLK RESET VSS D0_B[1] net2 C0_B[1] FF_D
x2 VDD CLK RESET VSS D0_B[2] net3 C0_B[2] FF_D
x3 VDD CLK RESET VSS D0_B[3] net4 C0_B[3] FF_D
x4 VDD CLK RESET VSS D0_B[4] net5 C0_B[4] FF_D
x5 VDD CLK RESET VSS D0_B[5] net6 C0_B[5] FF_D
x6 VDD CLK RESET VSS D1_B[0] net7 C1_B[0] FF_D
x7 VDD CLK RESET VSS D1_B[1] net8 C1_B[1] FF_D
x9 VDD CLK RESET VSS D1_B[2] net9 C1_B[2] FF_D
x10 VDD CLK RESET VSS D1_B[3] net10 C1_B[3] FF_D
x11 VDD CLK RESET VSS D1_B[4] net11 C1_B[4] FF_D
x12 VDD CLK RESET VSS D1_B[5] net12 C1_B[5] FF_D
x13 VDD CLK RESET VSS D2_B[0] net13 C2_B[0] FF_D
x14 VDD CLK RESET VSS D2_B[1] net14 C2_B[1] FF_D
x15 VDD CLK RESET VSS D2_B[2] net15 C2_B[2] FF_D
x16 VDD CLK RESET VSS D2_B[3] net16 C2_B[3] FF_D
x17 VDD CLK RESET VSS D2_B[4] net17 C2_B[4] FF_D
x18 VDD CLK RESET VSS D2_B[5] net18 C2_B[5] FF_D
.ends


* expanding   symbol:  Counter_FA_6bits.sym # of pins=7
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counter_FA_6bits.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counter_FA_6bits.sch
.subckt Counter_FA_6bits S[5] S[4] S[3] S[2] S[1] S[0] A[5] A[4] A[3] A[2] A[1] A[0] VDD COUT B[5] B[4] B[3] B[2] B[1] B[0] VSS
+ CIN
*.PININFO VDD:B VSS:B A[5:0]:I B[5:0]:I CIN:I S[5:0]:O COUT:O
x6 A[0] VDD B[0] S[0] VSS CIN net1 FA
x1 A[1] VDD B[1] S[1] VSS net1 net2 FA
x2 A[2] VDD B[2] S[2] VSS net2 net3 FA
x3 A[3] VDD B[3] S[3] VSS net3 net4 FA
x4 A[4] VDD B[4] S[4] VSS net4 net5 FA
x5 A[5] VDD B[5] S[5] VSS net5 COUT FA
.ends


* expanding   symbol:  Counter_FA_7bits.sym # of pins=7
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counter_FA_7bits.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counter_FA_7bits.sch
.subckt Counter_FA_7bits S[6] S[5] S[4] S[3] S[2] S[1] S[0] A[6] A[5] A[4] A[3] A[2] A[1] A[0] VDD COUT B[6] B[5] B[4] B[3] B[2]
+ B[1] B[0] VSS CIN
*.PININFO VDD:B VSS:B A[6:0]:I B[6:0]:I CIN:I S[6:0]:O COUT:O
x6 A[0] VDD B[0] S[0] VSS CIN net1 FA
x1 A[1] VDD B[1] S[1] VSS net1 net2 FA
x2 A[2] VDD B[2] S[2] VSS net2 net3 FA
x3 A[3] VDD B[3] S[3] VSS net3 net4 FA
x4 A[4] VDD B[4] S[4] VSS net4 net5 FA
x5 A[5] VDD B[5] S[5] VSS net5 net6 FA
x7 A[6] VDD B[6] S[6] VSS net6 COUT FA
.ends


* expanding   symbol:  Counters__FA_regs_7bits.sym # of
*+ pins=6
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counters__FA_regs_7bits.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Counters__FA_regs_7bits.sch
.subckt Counters_FA_regs_7bits RESET D[7] D[6] D[5] D[4] D[3] D[2] D[1] D[0] VDD CLK VSS S[7] S[6] S[5] S[4] S[3] S[2] S[1] S[0]
*.PININFO VDD:B VSS:B RESET:I S[7:0]:I D[7:0]:O CLK:I
x8 VDD CLK RESET VSS D[0] net1 S[0] FF_D
x1 VDD CLK RESET VSS D[1] net2 S[1] FF_D
x2 VDD CLK RESET VSS D[2] net3 S[2] FF_D
x3 VDD CLK RESET VSS D[3] net4 S[3] FF_D
x4 VDD CLK RESET VSS D[4] net5 S[4] FF_D
x5 VDD CLK RESET VSS D[5] net6 S[5] FF_D
x6 VDD CLK RESET VSS D[6] net7 S[6] FF_D
x7 VDD CLK RESET VSS D[7] net8 S[7] FF_D
.ends


* expanding   symbol:  SR_Latch.sym # of pins=6
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/SR_Latch.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/SR_Latch.sch
.subckt SR_Latch VDD VS QN QP VR VSS
*.PININFO VDD:B VSS:B VS:I VR:I QP:O QN:O
x1 VDD QN VS QP VSS NOR
x2 VDD QP QN VR VSS NOR
.ends


* expanding   symbol:  GRO.sym # of pins=6
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/GRO.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/GRO.sch
.subckt GRO VDD EN K0 K1 VSS K2
*.PININFO EN:I VDD:B VSS:B K0:O K1:O K2:O
x2 S K0 K2 VSS INV3
x3 S K1 K0 VSS INV3
x4 S K2 K1 VSS INV3
M1 S G VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=32
x5[1] VDD EN_N EN VSS INV_D1
x5[0] VDD EN_N EN VSS INV_D1
x6[3] VDD net1 EN_N VSS INV_D1
x6[2] VDD net1 EN_N VSS INV_D1
x6[1] VDD net1 EN_N VSS INV_D1
x6[0] VDD net1 EN_N VSS INV_D1
x7[7] VDD net2 net1 VSS INV_D1
x7[6] VDD net2 net1 VSS INV_D1
x7[5] VDD net2 net1 VSS INV_D1
x7[4] VDD net2 net1 VSS INV_D1
x7[3] VDD net2 net1 VSS INV_D1
x7[2] VDD net2 net1 VSS INV_D1
x7[1] VDD net2 net1 VSS INV_D1
x7[0] VDD net2 net1 VSS INV_D1
x8[15] VDD G net2 VSS INV_D1
x8[14] VDD G net2 VSS INV_D1
x8[13] VDD G net2 VSS INV_D1
x8[12] VDD G net2 VSS INV_D1
x8[11] VDD G net2 VSS INV_D1
x8[10] VDD G net2 VSS INV_D1
x8[9] VDD G net2 VSS INV_D1
x8[8] VDD G net2 VSS INV_D1
x8[7] VDD G net2 VSS INV_D1
x8[6] VDD G net2 VSS INV_D1
x8[5] VDD G net2 VSS INV_D1
x8[4] VDD G net2 VSS INV_D1
x8[3] VDD G net2 VSS INV_D1
x8[2] VDD G net2 VSS INV_D1
x8[1] VDD G net2 VSS INV_D1
x8[0] VDD G net2 VSS INV_D1
M2 S G VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=32
M3 K2 G VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=32
M4 K0 EN_N VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=32
.ends


* expanding   symbol:  Modi_Buffers.sym # of pins=8
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Modi_Buffers.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Modi_Buffers.sch
.subckt Modi_Buffers K0 IN0 VDD IN1 VSS K1 K2 IN2
*.PININFO IN0:I IN1:I IN2:I K0:O K1:O K2:O VDD:B VSS:B
x1[1] VDD net1 IN0 VSS INV_D1
x1[0] VDD net1 IN0 VSS INV_D1
x2[1] VDD K0 net1 VSS INV_D2
x2[0] VDD K0 net1 VSS INV_D2
x3 VDD net1 K0 VSS INV05
x3[1] VDD net2 IN1 VSS INV_D1
x3[0] VDD net2 IN1 VSS INV_D1
x4[1] VDD net3 IN2 VSS INV_D1
x4[0] VDD net3 IN2 VSS INV_D1
x5[1] VDD K1 net2 VSS INV_D2
x5[0] VDD K1 net2 VSS INV_D2
x6[1] VDD K2 net3 VSS INV_D2
x6[0] VDD K2 net3 VSS INV_D2
x1 VDD net2 K1 VSS INV05
x2 VDD net3 K2 VSS INV05
.ends


* expanding   symbol:  MUX_8_1.sym # of pins=12
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/MUX_8_1.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/MUX_8_1.sch
.subckt MUX_8_1 VINA VINB VDD VOUT CTRL[2] CTRL[1] CTRL[0] VINC VSS VIND VINE VINF VING VINH
*.PININFO VSS:B VOUT:O VDD:B VINA:I VINB:I VINC:I VIND:I CTRL[2:0]:I VINE:I VINF:I VING:I VINH:I
x7 VDD net1 VOUT CTRL[2] net2 VSS MUX_2_1
x8 VINA VINB VDD net1 CTRL[1] CTRL[0] VINC VSS VIND MUX_4_1
x9 VINE VINF VDD net2 CTRL[1] CTRL[0] VING VSS VINH MUX_4_1
.ends


* expanding   symbol:  Buffers_IO.sym # of pins=12
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Buffers_IO.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Buffers_IO.sch
.subckt Buffers_IO DRV_START VDD START VSS DRV_STOP STOP DRV_RESET RESET DRV_ADDER ADDER DRV_CTRL[2] DRV_CTRL[1] DRV_CTRL[0]
+ CTRL[2] CTRL[1] CTRL[0]
*.PININFO DRV_START:I VDD:B VSS:B DRV_STOP:I DRV_RESET:I ADDER:I START:O STOP:O RESET:O DRV_ADDER:O CTRL[2:0]:I DRV_CTRL[2:0]:O
x1 VDD DRV_START VSS START Buffers
x2 VDD DRV_STOP VSS STOP Buffers
x3 VDD DRV_RESET VSS RESET Buffers
x6 VDD ADDER VSS DRV_ADDER Buffers
x4 VDD CTRL[2] VSS DRV_CTRL[2] Buffers
x5 VDD CTRL[1] VSS DRV_CTRL[1] Buffers
x7 VDD CTRL[0] VSS DRV_CTRL[0] Buffers
.ends


* expanding   symbol:  Delay_cell.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Delay_cell.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Delay_cell.sch
.subckt Delay_cell VDD IN OUT1 OUT2 VSS
*.PININFO IN:I VDD:B VSS:B OUT1:O OUT2:O
x5[1] VDD net1 IN VSS INV_D1
x5[0] VDD net1 IN VSS INV_D1
x6[3] VDD OUT1 net1 VSS INV_D1
x6[2] VDD OUT1 net1 VSS INV_D1
x6[1] VDD OUT1 net1 VSS INV_D1
x6[0] VDD OUT1 net1 VSS INV_D1
x7[7] VDD net2 OUT1 VSS INV_D1
x7[6] VDD net2 OUT1 VSS INV_D1
x7[5] VDD net2 OUT1 VSS INV_D1
x7[4] VDD net2 OUT1 VSS INV_D1
x7[3] VDD net2 OUT1 VSS INV_D1
x7[2] VDD net2 OUT1 VSS INV_D1
x7[1] VDD net2 OUT1 VSS INV_D1
x7[0] VDD net2 OUT1 VSS INV_D1
x8[15] VDD OUT2 net2 VSS INV_D1
x8[14] VDD OUT2 net2 VSS INV_D1
x8[13] VDD OUT2 net2 VSS INV_D1
x8[12] VDD OUT2 net2 VSS INV_D1
x8[11] VDD OUT2 net2 VSS INV_D1
x8[10] VDD OUT2 net2 VSS INV_D1
x8[9] VDD OUT2 net2 VSS INV_D1
x8[8] VDD OUT2 net2 VSS INV_D1
x8[7] VDD OUT2 net2 VSS INV_D1
x8[6] VDD OUT2 net2 VSS INV_D1
x8[5] VDD OUT2 net2 VSS INV_D1
x8[4] VDD OUT2 net2 VSS INV_D1
x8[3] VDD OUT2 net2 VSS INV_D1
x8[2] VDD OUT2 net2 VSS INV_D1
x8[1] VDD OUT2 net2 VSS INV_D1
x8[0] VDD OUT2 net2 VSS INV_D1
.ends


* expanding   symbol:  6bits_counter.sym # of pins=10
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/6bits_counter.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/6bits_counter.sch
.subckt 6bits_counter B0 CLK VDD B1 B2 VSS RESET B3 B4 B5
*.PININFO VDD:B VSS:B CLK:I RESET:I B0:O B1:O B2:O B3:O B4:O B5:O
x1 VDD CLK RESET VSS net1 B0 B0 FF_D
x2 VDD net1 RESET VSS net2 B1 B1 FF_D
x3 VDD net2 RESET VSS net3 B2 B2 FF_D
x4 VDD net3 RESET VSS net4 B3 B3 FF_D
x5 VDD net4 RESET VSS net5 B4 B4 FF_D
x6 VDD net5 RESET VSS net6 B5 B5 FF_D
.ends


* expanding   symbol:  FF_D.sym # of pins=7
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/FF_D.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/FF_D.sch
.subckt FF_D VDD VCLK VRESET VSS VQ VQN VD
*.PININFO VDD:B VSS:B VCLK:I VD:I VRESET:I VQ:O VQN:O
x1 VDD net4 VD VSS INV_D1
x2 VDD net2 net1 VSS INV_D1
x3 VCLK VSS net7 net2 VDD VCLK_N TG_2C
x4 VCLK_N VSS net7 net4 VDD VCLK TG_2C
x5 VCLK VSS net6 net5 VDD VCLK_N TG_2C
x6 VDD net3 VQ VSS INV_D1
x7 VCLK_N VSS net6 net3 VDD VCLK TG_2C
x8 VDD net7 net1 VRESET_N VSS NAND_D2
x9 VDD net6 VQ VRESET_N VSS NAND_D3
x10 VDD VCLK_N VCLK VSS INV_D1
x11 VDD net5 net1 VSS INV_D3
x12 VDD VRESET_N VRESET VSS INV_D1
x13 VDD VQN VQ VSS INV_D1
.ends


* expanding   symbol:  FA.sym # of pins=7
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/FA.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/FA.sch
.subckt FA A VDD B S VSS CIN CSAL
*.PININFO B:I A:I CIN:I S:O CSAL:O VDD:B VSS:B
x1 net2 B VDD CIN VSS XOR
x5 S A VDD net2 VSS XOR
x6 VDD net1 net4 net3 VSS OR
x7 VDD CSAL net1 net5 VSS OR
x2 VDD B net4 CIN VSS AND
x3 VDD B net3 A VSS AND
x4 VDD CIN net5 A VSS AND
.ends


* expanding   symbol:  NOR.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NOR.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NOR.sch
.subckt NOR VDD VOUT VA VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 VOUT VA VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VB VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M3 VOUT VB net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M4 net1 VA VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  INV3.sym # of pins=4
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV3.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV3.sch
.subckt INV3 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
x2 VDD net2 VIN VSS INV_D1
x1[1] VDD net1 net2 VSS INV_D1
x1[0] VDD net1 net2 VSS INV_D1
x3[3] VDD VOUT net1 VSS INV_D1
x3[2] VDD VOUT net1 VSS INV_D1
x3[1] VDD VOUT net1 VSS INV_D1
x3[0] VDD VOUT net1 VSS INV_D1
.ends


* expanding   symbol:  INV_D1.sym # of pins=4
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV_D1.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV_D1.sch
.subckt INV_D1 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  INV_D2.sym # of pins=4
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV_D2.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV_D2.sch
.subckt INV_D2 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  INV05.sym # of pins=4
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV05.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV05.sch
.subckt INV05 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M1 net1 VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M3 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VIN net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  MUX_2_1.sym # of pins=6
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/MUX_2_1.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.PININFO VOUT:O VINA:I VINB:I VS:I VDD:B VSS:B
x3 VDD net1 VINA VSS INV_D1
x4 VDD net3 VS VSS INV_D1
x5 VDD net2 VINB VSS INV_D1
x6 VSS VSS VOUT net1 VDD VDD TG_2C
x7 net3 VSS VOUT net1 VDD VS TG_2C
x1 VS VSS VOUT net2 VDD net3 TG_2C
x2 VSS VSS VOUT net2 VDD VDD TG_2C
.ends


* expanding   symbol:  MUX_4_1.sym # of pins=8
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/MUX_4_1.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND
*.PININFO VOUT:O VDD:B VSS:B VINA:I VINB:I VINC:I VIND:I VS[1:0]:I
x3 VDD VINA net1 VS[0] VINB VSS MUX_2_1
x1 VDD VINC net2 VS[0] VIND VSS MUX_2_1
x2 VDD net1 VOUT VS[1] net2 VSS MUX_2_1
.ends


* expanding   symbol:  Buffers.sym # of pins=4
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Buffers.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/Buffers.sch
.subckt Buffers VDD IN VSS OUT
*.PININFO IN:I VDD:B VSS:B OUT:O
x1[1] VDD net1 IN VSS INV_D1
x1[0] VDD net1 IN VSS INV_D1
x2[1] VDD OUT net1 VSS INV_D2
x2[0] VDD OUT net1 VSS INV_D2
x3 VDD net1 OUT VSS INV05
.ends


* expanding   symbol:  TG_2C.sym # of pins=6
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/TG_2C.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/TG_2C.sch
.subckt TG_2C VCTRLN VSS VOUT VIN VDD VCTRLP
*.PININFO VCTRLN:B VCTRLP:B VOUT:O VIN:I VSS:B VDD:B
M1 VOUT VCTRLN VIN VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VCTRLP VIN VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  NAND_D2.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NAND_D2.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NAND_D2.sch
.subckt NAND_D2 VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=0.9u l=0.13u ng=1 m=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.3u l=0.13u ng=1 m=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  NAND_D3.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NAND_D3.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NAND_D3.sch
.subckt NAND_D3 VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=1.35u l=0.13u ng=1 m=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.45u l=0.13u ng=1 m=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  INV_D3.sym # of pins=4
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV_D3.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/INV_D3.sch
.subckt INV_D3 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=3
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=6
.ends


* expanding   symbol:  XOR.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/XOR.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/XOR.sch
.subckt XOR OUT A VDD B VSS
*.PININFO VDD:B VSS:B A:I B:I OUT:O
x2 VDD net3 net2 B VSS AND
x4 VDD net3 A VSS INV_D1
x5 VDD net1 B VSS INV_D1
x1 VDD OUT net2 net4 VSS OR
x3 VDD A net4 net1 VSS AND
.ends


* expanding   symbol:  OR.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/OR.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/OR.sch
.subckt OR VDD VOUT VA VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
x2 VDD VOUT net1 VSS INV_D1
x1 VDD net1 VA VB VSS NOR
.ends


* expanding   symbol:  AND.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/AND.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/AND.sch
.subckt AND VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
x1 VDD VA net1 VB VSS NAND
x2 VDD VOUT net1 VSS INV_D1
.ends


* expanding   symbol:  NAND.sym # of pins=5
** sym_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NAND.sym
** sch_path: $SCRIPT_DIR/ADC8711-main/schematic/xschem/NAND.sch
.subckt NAND VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=0.45u l=0.13u ng=1 m=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends

